US07037925B2
4-(2-Ethylanilino)-6-methoxy-7-(2-methoxyethoxy)-3-quinolinecarboxamide
A mixture of 4-(2-ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide (0.22 g, 0.65 mmol), DMF (15 ml), Cs2CO3 (0.64 g, 1.98 mmol), and 2-bromoethylmethylether was stirred at 100° C. for 2 h. The reactionmixture was evaporated and chromatographed on furnishing the title compound (0.045 g, 18%.

reactant | 4-(2-ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide | 0.65 mmol, 0.22 g | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)O)C(=O)N)C=CC=C1 | C19H19N3O3
reactant | Cs2CO3 | 1.98 mmol, 0.64 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromoethylmethylether | BrCCOC | C3H7BrO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(2-Ethylanilino)-6-methoxy-7-(2-methoxyethoxy)-3-quinolinecarboxamide | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OCCOC)C(=O)N)C=CC=C1 | C22H25N3O4
